US09302991B2
<Step-1>: Methyl 2-propionamidoisonicotinate
To a stirred solution of methyl 2-aminoisonicotinate (1.00 g, 6.57 mmol) in pyridine (22 mL) is added propionyl chloride (0.69 mL, 7.89 mmol) at 0° C. After stirring at 0° C. for 2 hours, the reaction mixture is poured into 2M hydrochloric acid (100 mL) and extracted with ethyl acetate (100 mL). The organic layer is dried over sodium sulfate, and concentrated under reduced pressure to give 1.07 g (78% yield) of the title compound as a yellow solid. This material is used for the next reaction (Step-2) without further purification.

reactant | methyl 2-aminoisonicotinate | 6.57 mmol, 1.00 g | NC=1C=C(C(=O)OC)C=CN1 | C7H8N2O2
reactant | propionyl chloride | 7.89 mmol, 0.69 mL | C(CC)(=O)Cl | C3H5ClO
reactant | hydrochloric acid | 2M, 100 mL | Cl | ClH
solvent | pyridine | 22 mL | N1=CC=CC=C1 | C5H5N
product | Methyl 2-propionamidoisonicotinate | 1.07 g, 78% yield | C(CC)(=O)NC=1C=C(C(=O)OC)C=CN1 | C10H12N2O3
